# Test of a transistor device

.options temp=29.1439  shell=False 
.vars beta1 = 99.655
.analysis op intvars=1

.model t122 svbjt (type=npn isat=0.480e-15 nf=1.008 bf=beta1 vaf=90.000 \
ikf=0.190 \
ise=7.490e-15 ne=1.762 nr=1.010 br=38.400 var=7.000 ikr=93.200e-3 \
isc=0.200e-15 nc=1.042 rb=1.500 irb=0.100e-3 rbm=1.200 cje=1.325e-12 \
vje=0.700 mje=0.220 fc=0.890 cjc=1.050e-12 vjc=0.610 mjc=0.240 xcjc=0.400 \
tf=56.940e-12 tr=1.000e-9 xtf=68.398 vtf=0.600 itf=0.700 xtb=1.600 \
eg=1.110 xti=3.000) 
# re=0.500 rc=2.680 

#.model t122 bjt (bf=200 vaf=100 ikf=10e-3 irb=1e-3 rbm=30 rb=100)

vdc:vce 10 gnd vdc=12
res:rc 10 1 r=1k
vdc:vb 3 0 vdc=10
res:rb 3 2 r=96k

res:reint 1000 0 r=1
res:rcint 100 1 r=1
svbjt:q1 100 2 1000 model=t122

.end


